US05057614
200 mg of 3-(1-methyl-3-indolyl)-4-(4-pyridyl)furan-2,5-dione were treated with 5 ml of DMF and 5 ml of 33% aqueous ammonia. The resulting solution was heated at 140° C. for 17 hours. After cooling, the suspension was diluted with water. The product was filtered off, washed with water and dried to give 144 mg of 3-(1-methyl-3-indolyl)-4-(4-pyridyl)-1H-pyrrole-2,5-dione, m.p. 332°-334° C.

reactant | 3-(1-methyl-3-indolyl)-4-(4-pyridyl)furan-2,5-dione | 200 mg | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CC=NC=C1)=O)=O | C18H12N2O3
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | ammonia | 5 ml | N | H3N
solvent | water | O | H2O
product | 3-(1-methyl-3-indolyl)-4-(4-pyridyl)-1H-pyrrole-2,5-dione | 144 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC=NC=C1)=O)=O | C18H13N3O2
